US08460846B2
A four-necked round-bottom flask equipped with a stirrer, a thermocouple, and a nitrogen inlet tube was charged with 4 moles of stearic acid per 1 mole of pentaerythritol. The ingredients in the flask were heated at 130° C. for 5 hours under a nitrogen atmosphere, to carry out an esterification reaction. The reaction product was purified with methyl ether, to give pentaerythritol stearate. Here, the resulting compound had an acid value of 0.3 mgKOH/g, and a hydroxyl value of 1.8 mgKOH/g.

reactant | stearic acid | 4 moles | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | pentaerythritol | 1 mole | OCC(CO)(CO)CO | C5H12O4
product | pentaerythritol stearate | C(CCCCCCCCCCCCCCCCC)(=O)OCC(CO)(CO)CO | C23H46O5
